** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_5_analog_layout/comparator/layout/schematic/DIFF_COMPARATOR.sch
.subckt DIFF_COMPARATOR vdd vbias v+ v- out- out+ clk gnd
*.PININFO vdd:B gnd:B v+:I v-:I clk:I out-:O out+:O vbias:I
M2 net3 v+ net1 well sg13_lv_pmos w=8u l=200n ng=2 m=4
M1 net2 v- net1 well sg13_lv_pmos w=8u l=200n ng=2 m=4
M4 out- net2 vdd well sg13_lv_pmos w=8u l=0.200u ng=2 m=1
M5 out+ net3 vdd well sg13_lv_pmos w=8u l=0.200u ng=2 m=1
M11 gnd net3 out+ gnd sg13_lv_nmos w=4.0u l=0.200u ng=2 m=1
M12 gnd net2 out- gnd sg13_lv_nmos w=4.0u l=0.200u ng=2 m=1
M6 gnd net2 net3 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
M10 gnd clk net3 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
M7 gnd clk net2 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
M8 gnd net3 net2 gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=1
M3 gnd gnd gnd gnd sg13_lv_nmos w=4.0u l=0.200u ng=1 m=4
M13 net1 clk net4 well sg13_lv_pmos w=18u l=0.3u ng=4 m=1
M9 net4 vbias vdd well sg13_lv_pmos w=18u l=0.3u ng=4 m=1
R1 vdd well ntap1 A=1.5376e-11 P=9.92e-05
.ends
